US06979692B2
(e) (S)-(Benzylcarbamoyl-phenyl-methyl)-carbamic acid tert-butyl ester
(S)-tert-Butoxycarbonylamino-phenyl-acetic acid (1.00 g, 4 mmol) was dissolved in DCM (15 mL). Benzylamine (0.428 g, 4 mmol) and DIEA(0.65 g, 5 mmol) were added to the above mixture. The mixture which resulted was stirred at room temperature for a few minutes. PyBroP(2.10 g, 4.5 mmol) was added to the above solution in one portion and the reaction mixture was stirred overnight. The reaction mixture was diluted with DCM (150 mL) and washed with NaHCO3 (50 mL×2, sat.). The organic layer was collected and dried (Na2SO4) and the solvent was removed under reduced pressure. The crude product was purified by chromatography to provide the desired product (0.85 g, 62%).

reactant | (S)-tert-Butoxycarbonylamino-phenyl-acetic acid | 4 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | Benzylamine | 4 mmol, 0.428 g | C(C1=CC=CC=C1)N | C7H9N
reactant | DIEA | 5 mmol, 0.65 g | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBroP | 4.5 mmol, 2.10 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | (S)-(Benzylcarbamoyl-phenyl-methyl)-carbamic acid tert-butyl ester | 0.85 g, 62% | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(NCC1=CC=CC=C1)=O)=O | C20H24N2O3
